US07592358B2
47.1c. 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}-1-cyclopropylmethylpiperidin-4-ol
A solution of 0.78 g (2.02 mmol) of 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}piperidin-4-ol and 0.59 mL (8.06 mmol) of cyclopropanecarbaldehyde in 40 mL of THF was stirred for 30 minutes at RT, then combined with 1.71 g (8.06 mmol) of sodium triacetoxyborohydride and 0.46 mL (8.06 mmol) of glacial acetic acid and stirred for a further 2 days at RT. The reaction mixture was combined with DCM, and the organic phase was washed with semisaturated aqueous sodium bicarbonate solution, dried over sodium sulfate, and evaporated down in vacuo. The crude product was stirred with isopropanol, and the precipitate was filtered off and dried in vacuo. Yield: 0.19 g (21% of theoretical); C28H27ClN2O (M=442.980); calc.: molpeak (M+H)+:443/445 (Cl); found: molpeak (M+H)+:443/445 (Cl); HPLC-MS: 7.26 minutes (method A).

reactant | 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}piperidin-4-ol | 2.02 mmol, 0.78 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)C1(CCNCC1)O | C24H21ClN2O
reactant | cyclopropanecarbaldehyde | 8.06 mmol, 0.59 mL | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 8.06 mmol, 1.71 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 8.06 mmol, 0.46 mL | C(C)(=O)O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-{4-[5-(4-chlorophenyl)pyridin-2-ylethynyl]phenyl}-1-cyclopropylmethylpiperidin-4-ol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)C1(CCN(CC1)CC1CC1)O | C28H27ClN2O
